Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Demerol / Dilaudid / morphine
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
___
Redo right thoracotomy, tracheobronchoplasty with mesh, and 
bronchoscopy with lavage.

 
History of Present Illness:
Ms. ___ is a ___, never smoker,
who is s/p tracheobronchial laceration repair ___. The
laceration had occurred after attempted placement of a silicone
Y-stent for severe TBM. Initially felt better after the tracheal
repair, but over the past few years symptoms have worsened. Had 
a
bronchoscopy on ___, which revealed complete collapse of the
mainstem bronchi and stents were placed in the left mainstem
bronchus, bronchus intermedius, and right mainstem bronchus.
6-minute walk test- ___ with the stents in place. Had
previously walked 1350ft without stents. Re-presents for
consideration for tracheobronchoplasty.

Pt reports that her symptoms have significantly worsened over 
the
past year. Has shortness of breath with bending over and when
walking on an incline. She says she cannot carry anything heavy
while walking. She notes that she cannot lay on her back d/t
shortness of breath. Gets ___ respiratory infections per year
that require abx. Denies recent hospitalizations. Has a cough,
which is sometimes barky and dry and sometimes productive with
yellow and clear sputum. Denies hemoptysis. She uses BiPAP at
night. Uses Combivent PRN and nebulizer treatments when sick. 

She notes that she did feel better when she had stents in,
though, they did cause a significant amount of pain and mucous
production. She noted that she was able to breathe when laying
down when the stents were in place. Has acid reflux despite hx 
of
a ___ fundoplication in ___. She notes that omeprazole does
control her reflux symptoms. Denies history of cardiac problems.
No history of coagulation problems. 

 
Past Medical History:
Hiatal hernia 
GERD s/p lap ___ fundoplication ___ ___ Thyroiditis, Hypothyroidism
Mid thoracic vertebral fx @ age ___, s/p TLSO
Vaginal wall collapse 
s/p hysterectomy
s/p back surgery ___

 
Social History:
___
Family History:
Mother
Father- asthma
Siblings- sister: asymptomatic pulmonary sarcoidosis 
Offspring
Other- grandmother: leukemia 

 
Physical ___:
BP: 112/81. Heart Rate: 80. O2 Saturation%: 99. Weight: 214.1
(With Clothes). Height: 67.750. BMI: 32.8. Temperature: 98.7.
Resp. Rate: 18.
GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [ ] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [ ] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA bilaterally     [ ] Excursion normal     [ ] No fremitus
[ ] No egophony    [ ] No spine/CVAT
[ ] Abnormal findings: wheezing/high-pitched sounds audible in
upper airways/trachea 

CARDIOVASCULAR 
[x] RRR    [ ] No m/r/g    [ ] No JVD   [ ] PMI nl  [x] No edema
[ ] Peripheral pulses nl    [ ] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [ ] No mass/HSM   [ ] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[ ] Strength intact/symmetric    [ ] Sensation intact/ symmetric
[ ] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[ ] Cranial nerves intact   [ ] Abnormal findings:

MS         
[ ] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[ ] No tenderness  [ ] Tone/align/ROM nl   [ ] Palpation nl
[ ] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [ ] Axillary nl
[ ] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[ ] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
                     WBC   RBC  Hgb   Hc t  MCV MCH MCHC  RDW 
RDWSD Plt Ct 
___ 06:14    10.5* 4.00  11.2  35.5  89 28.0 31.5* 13.2 
42.8 369 
___ 01:32    13.1* 3.83* 10.7* 33.4* 87 27.9 32.0  13.2 
41.6 324 
___ 01:21    13.9* 3.96  10.8* 34.7  88 27.3 31.1* 13.1 
41.9 318 
___ 01:02    14.7* 3.79* 10.7* 33.3* 88 28.2 32.1  13.2 
42.6 339 
___ 01:11    17.3* 4.30  12.0  37.3  87 27.9 32.2  13.2 
41.0 303 
___ 17:47    19.3* 4.50  12.6  39.4  88 28.0 32.0  13.0 
41.4 341 
 
                 Glucose UreaN Creat Na   K    Cl HCO3 AnGap 
___ 06:14    114*1  5*   0.6  147 3.6  ___ 
___:32    134*1  5*   0.6  141 3.7  ___ 
___ 01:21    129*1  5*   0.7  138 3.3* 97  27  14 
___ 01:02    110*1  6    0.6  140 4.82 108 21* 11
___ 01:11    135*1 12    0.7  141 4.6  ___ 
___ 17:47    ___   139 4.9  ___ 

___ CXR :
1. New pneumomediastinum. 
2. Smaller right pneumothorax 

___ CXR :
In comparison with the study ___, with removal of the 
right chest tube there is no evidence of pneumothorax.  
Subcutaneous gas is again is seen along the right lateral chest 
wall and post surgical changes are noted in the right lung.  The 
left lung is essentially clear 

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a redo right thoracotomy, 
tracheobronchoplasty with mesh, and bronchoscopy with lavage. 
She tolerated the procedure well and returned to the TSICU 
extubated and in stable condition. She maintained stable 
hemodynamics and her pain was controlled with an epidural. Her 
___ drain was on suction and drained a moderate amount of 
serosanguinous fluid.  She underwent vigorous pulmonary toilet 
including nebulizers and chest ___ and was doing well. Her pre op 
symptoms were much improved. Her ___ drain was removed on post 
op day #2 as the drainage was minimal and there was no air leak. 
Her post pull chest xray showed no pneumpthorax. her right 
thoracotomy site was healing well and she was tolerating a 
liquid diet.

Following transfer to the Surgical floor her epidural was 
removed and her pain was controlled with Tylenol, Oxycodone and 
Gabapentin.  She continued to work hard with her incentive 
spirometer and nebulizers to keep her airway clear. Her diet was 
gradually advanced to soft solids which was well tolerated. As 
her activity increased she had some spasms around her right 
chest which were relieved with Flexeril.  Her room air 
saturations were 92-96% with activity and her pain was in better 
control. After an uneventful recovery she was discharged to a 
local home on ___ and will follow up with Dr. ___ 
in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ipratropium-albuterol ___ mcg/actuation inhalation DAILY 
2. GuaiFENesin ER 1200 mg PO Q12H 
3. montelukast 10 mg oral DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Levothyroxine Sodium 100 mcg PO DAILY 

 
Discharge Medications:
1.  Cyclobenzaprine 10 mg PO TID:PRN spasms 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth three times a day 
Disp #*20 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  Gabapentin 200 mg PO TID 
RX *gabapentin 100 mg 2 capsule(s) by mouth three times a day 
Disp #*84 Capsule Refills:*0 
4.  HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN 
Pain - Moderate 
RX *hydrocodone-acetaminophen 5 mg-325 mg ___ tablet(s) by 
mouth Q ___ hrs Disp #*40 Tablet Refills:*0 
5.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*1 
6.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 neb 
INH every six (6) hours Disp #*30 Ampule Refills:*1 
7.  Lidocaine 5% Patch 2 PTCH TD QPM 
RX *lidocaine 5 % 2 patches at bedtime Disp #*30 Patch 
Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 Gm by mouth once a 
day Refills:*0 
9.  GuaiFENesin ER 1200 mg PO Q12H  
10.  Levothyroxine Sodium 100 mcg PO DAILY  
11.  montelukast 10 mg oral DAILY  
12.  Omeprazole 20 mg PO DAILY  
13. HELD- ipratropium-albuterol ___ mcg/actuation inhalation 
DAILY  This medication was held. Do not restart 
ipratropium-albuterol until nebulizers not needed

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe diffuse tracheobronchomalacia. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for surgery on your airway 
and you've recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake along with your nebulizers.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

 
Followup Instructions:
___